US07541372B2
4-{3-Methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-thiomorpholine
To a solution of 2-(4-fluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole (200 mg, 0.57 mmol) in DMSO (2 mL) was added thiomorpholine (0.29 mL, 2.85 mmol) and the reaction mixture was stirred for 5 h at 170° C. After cooling to ambient temperature it was extracted with water (20 mL) and ethyl acetate (20 mL). The aqueous layer was extracted with ethyl acetate (20 mL) and the combined organic layers were washed with brine (half-saturated, 20 mL) and aqueous sodium carbonate (saturated, 20 mL). Drying over sodium sulfate and purification by chromatography (SiO2, heptane:ethyl acetate:dichloromethane=70:10:20 to 40:40:20) afforded the title compound (164 mg, 66%) as an off-white solid. MS: m/e=435.3 [M+H]+.

reactant | 2-(4-fluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole | 0.57 mmol, 200 mg | FC1=CC(=C(C=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)OC | C19H14FN3O3
reactant | thiomorpholine | 2.85 mmol, 0.29 mL | N1CCSCC1 | C4H9NS
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 4-{3-Methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-thiomorpholine | 164 mg, 66% | COC=1C=C(C=CC1C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)N1CCSCC1 | C23H22N4O3S
